US06066657
7-Methoxybenzofuran-2-sulfonic Acid Dimethylamide
N-Chlorosuccinimide (1 g) was added portionwise to 7-methoxybenzofuran-2-sulfinic acid, lithium salt (1.47 g) in dichloromethane (15 ml) at 0-5° C. under an inert atmosphere. The reaction was stirred at this temperature for 15 minutes and then warmed to ambient temperature and stirred for a further 15 minutes. The mixture was then flushed through a pad of celite, washing well with dichloromethane. The solvent was removed in vacuo to give a tan solid as the crude intermediate. This intermediate was added to a stirred solution of dimethylamine hydrochloride (0.67 g) and triethylamine (2.2 ml) in tetrahydrofuran (20 ml) at 0-5° C. under an inert atmosphere. The reaction was stirred at this temperature for 1 h and then warmed to room temperature and stirred for a further 48 h. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (2×40 ml) and water (50 ml). The combined organic phases were washed with 1M hydrochloric acid (2×20 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was washed with hexane (40 ml) to give the title compound as a tan solid (0.88 g).

reactant | N-Chlorosuccinimide | 1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 7-methoxybenzofuran-2-sulfinic acid | COC1=CC=CC=2C=C(OC21)S(=O)O | C9H8O4S
reactant | lithium | 1.47 g | [Li] | Li
reactant | dimethylamine hydrochloride | 0.67 g | Cl.CNC
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | 7-Methoxybenzofuran-2-sulfonic Acid Dimethylamide | 0.88 g | CN(S(=O)(=O)C=1OC2=C(C1)C=CC=C2OC)C | C11H13NO4S
